US07326791B2
(a) 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-methoxycarbonylbenzamide
1.61 g (7.50 mmol) of 3-chloro-4-methoxycarbonylbenzoic acid is dissolved in 40 mL of N,N-dimethylformamide and combined with 1.30 g (8.00 mmol) of N,N′-carbonyldiimidazole and stirred for 15 minutes at ambient temperature under a nitrogen atmosphere. Then 1.0 mL (7.5 mmol) of triethylamine, 1.5 mL (15 mmol) of N-methylmorpholine, and 1.69 g (7.75 mmol) of C-(5-chloro-1H-benzimidazol-2-yl)methylamine are added successively and stirred for a further 16 hours at ambient temperature under a nitrogen atmosphere. Then the reaction mixture is poured into 1 L of ice water, the precipitate is separated off by filtering, washed with a little demineralized water, and dried at 40° C. Finally the product is recrystallized from petroleum ether/ethyl acetate (2:1). Yield: 2.40 g (85%); Rf value: 0.58 (silica gel; dichloromethane/ethanol=9:1); C17H13Cl2N3O3 (378.22); mass spectrum: (M−H)−=376/78/80 (chlorine isotope).

reactant | 3-chloro-4-methoxycarbonylbenzoic acid | 7.50 mmol, 1.61 g | ClC=1C=C(C(=O)O)C=CC1C(=O)OC | C9H7ClO4
reactant | triethylamine | 7.5 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | N-methylmorpholine | 15 mmol, 1.5 mL | CN1CCOCC1 | C5H11NO
reactant | C-(5-chloro-1H-benzimidazol-2-yl)methylamine | 7.75 mmol, 1.69 g | ClC1=CC2=C(NC(=N2)CN)C=C1 | C8H8ClN3
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-methoxycarbonylbenzamide | ClC=1C=C(C(=O)NCC2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)OC | C17H13Cl2N3O3
